US05276165
5 g (0.05 mol) of MAA, 100 g of tetrahydrofuran, 9 g (0.06 mol) of dicyclohexylamine, 4 g of ammonia and 10 g of catalyst B were introduced into an autoclave fitted with a gas-distribution stirrer. The autoclave was subsequently heated to 225° C., and hydrogen was injected into the autoclave at a pressure of 200 bar. When take-up of hydrogen was no longer observed, the reaction was terminated. Analysis of the reaction mixture by gas chromatography gave a yield of 8.8% of N-cyclohexylpyrrolidone.

reactant | dicyclohexylamine | 0.06 mol, 9 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | ammonia | 4 g | N | H3N
reactant | hydrogen | [H][H] | H2
reactant | tetrahydrofuran | 100 g | O1CCCC1 | C4H8O
product | N-cyclohexylpyrrolidone | yield of 8.8% | C1(CCCCC1)N1C(CCC1)=O | C10H17NO
